US08981154B2
According to the '737 patent, tapentadol is prepared by the reaction of (−)-(2S,3S)-1-dimethylamino-3-(3-methoxyphenyl)-2-methylpentan-3-ol hydrochloride with thionyl chloride to produce (−)-(2S,3S)-[3-chloro-3-(3-methoxyphenyl)-2-methylpentyl]-dimethylamine hydrochloride, followed by subsequent removal of the ‘Cl’ substituent by treatment with zinc borohydride, zinc cyanoborohydride or tin cyanoborohydride, to produce (−)-(2R,3R)-[3-(3-methoxyphenyl)-2-methylpentyl]-dimethylamine hydrochloride. The (−)-(2R,3R)-[3-(3-methoxy phenyl)-2-methylpentyl]-dimethylamine hydrochloride is then converted to (−)-(1R,2R)-3-(3-dimethylamino-1-ethyl-2-methylpropyl)-phenol (tapentadol) by reacting with concentrated hydrobromic acid at reflux.

reactant | tapentadol | CC[C@@H](C=1C=CC=C(C1)O)[C@@H](C)CN(C)C | C14H23NO
reactant | (−)-(2S,3S)-1-dimethylamino-3-(3-methoxyphenyl)-2-methylpentan-3-ol hydrochloride | Cl.CN(C[C@@H]([C@](CC)(O)C1=CC(=CC=C1)OC)C)C
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | (−)-(2S,3S)-[3-chloro-3-(3-methoxyphenyl)-2-methylpentyl]-dimethylamine hydrochloride | Cl.Cl[C@]([C@H](CN(C)C)C)(CC)C1=CC(=CC=C1)OC | InChI=1S/C15H24ClNO.ClH/c1-6-15(16,12(2)11-17(3)4)13-8-7-9-14(10-13)18-5;/h7-10,12H,6,11H2,1-5H3;1H/t12-,15-;/m0./s1
